USH0000351
4,4,10,10-Tetranitro-6,8-dioxatridecane-1,13-diol
Dimethyl 4,4,10,10-tetranitro-6,8-dioxatridecane-1,13-dioate (28.8 g) was dissolved in 139 mL of BH3.THF with ice-cooling and under a nitrogen atmosphere. The solution was stirred at room temperature for 3 days, after which time 27 mL of water was added slowly and the mixture was heated at 60° C. for 5 minutes. After cooling, the mixture was poured into 200 mL of water, and the product was extracted with ether. The ether solution was washed with aqueous sodium bicarbonate solution, then with water, and dried (MgSO4) After removal of the solvent, the crude product was recrystallized from dichloromethane. Yield: 19.9 g (79%); M.P. 72.5°-3.5° C. 1H NMR spectrum (CDCl3 /TMS): δ 4.76 (s, 2H); 4.41 (s, 4H); 2.69 (m, 4H); 1.59 (m. 4H).

reactant | Dimethyl 4,4,10,10-tetranitro-6,8-dioxatridecane-1,13-dioate | 28.8 g | [N+](=O)([O-])C(CCC(=O)OC)(COCOCC(CCC(=O)OC)([N+](=O)[O-])[N+](=O)[O-])[N+](=O)[O-] | C13H20N4O14
reactant | water | 27 mL | O | H2O
reactant | water | 200 mL | O | H2O
solvent | BH3.THF | 139 mL | B.C1CCOC1
product | 4,4,10,10-Tetranitro-6,8-dioxatridecane-1,13-diol | [N+](=O)([O-])C(CCCO)(COCOCC(CCCO)([N+](=O)[O-])[N+](=O)[O-])[N+](=O)[O-] | C11H20N4O12
